US09056859B2
A solution of methyl 6-amino-2,3-dihydro-1-benzofuran-3-carboxylate (2.51 g, 13 mmol), sodium azide (1.01 g, 15.6 mmol) and triethyl orthoformate (5.92 g, 40 mmol) in 30 mL of acetic acid was heated to 100° C. for 3 hrs. After the reaction was completed, the mixture was cooled to ambient temperature and the solvent was removed under vacuum. The residue was diluted with EtOAc, washed with brine, dried over anhydrous Na2SO4 and concentrated. The residue was purified with silica gel column chromatograph to give the crude product, then re-crystalization from DCM to give methyl 6-(1H-tetrazol-1-yl)-2,3-dihydro-1-benzofuran-3-carboxylate.

reactant | methyl 6-amino-2,3-dihydro-1-benzofuran-3-carboxylate | 13 mmol, 2.51 g | NC1=CC2=C(C(CO2)C(=O)OC)C=C1 | C10H11NO3
reactant | sodium azide | 15.6 mmol, 1.01 g | [N-]=[N+]=[N-].[Na+]
reactant | triethyl orthoformate | 40 mmol, 5.92 g | C(OCC)(OCC)OCC | C7H16O3
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | methyl 6-(1H-tetrazol-1-yl)-2,3-dihydro-1-benzofuran-3-carboxylate | N1(N=NN=C1)C1=CC2=C(C(CO2)C(=O)OC)C=C1 | C11H10N4O3
